US07608623B2
3.6 TIPPS-3-cyanamido-(L)-phenylalanine-4-ethoxycarbonylpiperazide
TIPPS-3-amino-(L)-phenylalanine-4-ethoxycarbonylpiperazide (14.6 g; 24.9 mmol), sodium acetate (anhydrous) (5.11 g; 62.2 mmol) and cyanogen bromide (2.9 g; 27.4 mmol) were dissolved in ethanol and the solution was stirred at RT for 10 h. After evaporating the solvent, the residue was taken up in ethyl acetate and the solution was extracted with 5% KHSO4, 5% NaHCO3 and distilled water. After evaporating the solvent, the crude product was purified chromatographically over silica gel.

reactant | TIPPS 3-amino-(L)-phenylalanine-4-ethoxycarbonylpiperazide | 24.9 mmol, 14.6 g | C1=CC=C(C(=C1)C(=C2C=C(C(=O)C(=C2)I)I)C3=CC(=C(C(=C3)I)[O-])I)C(=O)[O-].[Na+].[Na+].C(C)OC(=O)N1CCN(CC1)C([C@@H](N)CC1=CC(=CC=C1)N)=O
reactant | sodium acetate | 62.2 mmol, 5.11 g | C(C)(=O)[O-].[Na+]
reactant | cyanogen bromide | 27.4 mmol, 2.9 g | N#CBr | CBrN
solvent | ethanol | C(C)O | C2H6O
product | TIPPS 3-cyanamido-(L)-phenylalanine-4-ethoxycarbonylpiperazide | C1=CC=C(C(=C1)C(=C2C=C(C(=O)C(=C2)I)I)C3=CC(=C(C(=C3)I)[O-])I)C(=O)[O-].[Na+].[Na+].C(C)OC(=O)N1CCN(CC1)C([C@@H](N)CC1=CC(=CC=C1)NC#N)=O | InChI=1S/C20H10I4O4.C17H23N5O3.2Na/c21-13-5-9(6-14(22)18(13)25)17(10-7-15(23)19(26)16(24)8-10)11-3-1-2-4-12(11)20(27)28;1-2-25-17(24)22-8-6-21(7-9-22)16(23)15(19)11-13-4-3-5-14(10-13)20-12-18;;/h1-8,25H,(H,27,28);3-5,10,15,20H,2,6-9,11,19H2,1H3;;/q;;2*+1/p-2/t;15-;;/m.0../s1
